US09382237B2
3-((3-(tert-butyl)phenyl)amino)-2-cyano-3-(methylthio)acrylamide was then suspended in 10 mL EtOH and hydrazine hydrate (124 μL, 1.0 eq.) was added dropwise. Reaction was heated at 75° C. until intermediate was absent (HPLC). Once intermediate was absent (18 hrs), reaction was brought to room temperature and filtered to obtain 5-amino-3-((4-(tert-butyl)phenyl)amino)-1H-pyrazole-4-carboxamide as a yellow powder. Product was allowed to dry under vacuum for 1 hr.

reactant | 3-((3-(tert-butyl)phenyl)amino)-2-cyano-3-(methylthio)acrylamide | C(C)(C)(C)C=1C=C(C=CC1)NC(=C(C(=O)N)C#N)SC | C15H19N3OS
reactant | hydrazine hydrate | 124 μL, 1.0 eq. | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | 5-amino-3-((4-(tert-butyl)phenyl)amino)-1H-pyrazole-4-carboxamide | NC1=C(C(=NN1)NC1=CC=C(C=C1)C(C)(C)C)C(=O)N | C14H19N5O
